US03968228
1.8 G. (0.01 moles) of 1-methyl-2-hydroxymethyl-4-nitro-5-cyanoimidazole and 2.14 g. (0.12 moles) of dimethylcarbamoyl chloride are combined in 15 ml. of pyridine and heated at 100°C. for 24 hours. The reaction mixture is evaporated to dryness, treated with 50 ml. of water and extracted with methylene chloride. The combined methylene chloride extracts are washed with water, dried, evaporated to dryness and the residue triturated with ether. The solid material is filtered and crystallized from isopropanol affording 1-methyl-2-(N,N-dimethylcarbamoyloxymethyl)-4-nitro-5-cyanoimidazole, m.p. 85° to 88°C.

reactant | 1-methyl-2-hydroxymethyl-4-nitro-5-cyanoimidazole | 0.01 moles | CN1C(=NC(=C1C#N)[N+](=O)[O-])CO | C6H6N4O3
reactant | dimethylcarbamoyl chloride | 0.12 moles | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-methyl-2-(N,N-dimethylcarbamoyloxymethyl)-4-nitro-5-cyanoimidazole | CN1C(=NC(=C1C#N)[N+](=O)[O-])COC(N(C)C)=O | C9H11N5O4
